US05731309
4-(4-Acetamido-4-phenylpiperidino)-N-acetyl-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine
To a stirred solution of 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine (0.4 g) in tetrahydrofuran (4 mL) was added acetic anhydride (0.085 mL) and diisopropylethylamine (0.32 mL). After 2 hours at room temperature 4-dimethylaminopyridine (7 mg) was added and the mixture was stirred overnight. Additional acetic anhydride (0.06 mL) was added and the reaction mixture was brought to reflux for 3 hours. The mixture was allowed to cool and diluted with aqueous hydrochloric acid (1N, 3 mL), dichloromethane (5 mL), and water (5 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (2×5 mL). The combined organic phases were washed (brine), dried, and evaporated to afford crude product, which was purified by chromatography with dichloromethane:methanol (15:1) as eluent, to afford the title compound as a white solid; mp 115°-117° C.; NMR (d6 -DMSO-trifluoroacetic acid): 8.0-7.5 (m,5), 7.45-7.2 (m,6), 4.80-4.45 (m,2), 3.45 (m,2), 3.1 (m,4), 2.67 (m,1), 2.67 (m,2), 2.55 (s,3), 1.95 (s,3), 2.0 (broad m,5); MS: m/z=702(M+1,100%). Analysis for C34H35Cl2F6N3O2.1.50 H2O: Calculated: C, 55.97; H, 5.25; N, 5.76; Found: C, 55.91; H, 5.11; N, 5.76.

reactant | 4-(4-acetamido-4-phenylpiperidino)-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | 0.4 g | C(C)(=O)NC1(CCN(CC1)C(CC(CN)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C32H33Cl2F6N3O
reactant | acetic anhydride | 0.085 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 0.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 0.06 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 4-(4-Acetamido-4-phenylpiperidino)-N-acetyl-2-(3,4-dichlorophenyl)-N-[3,5-bis(trifluoromethyl)benzyl]butylamine | C(C)(=O)NC1(CCN(CC1)C(CC(CNC(C)=O)C1=CC(=C(C=C1)Cl)Cl)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C34H35Cl2F6N3O2
